Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Facial swelling and hives.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo female with extensive obstetrical and psychological 
history presented to the ED with hives, perioral and periorbital 
edema. She notes another allergic episode last ___ where she 
went to ___ and received steroids. She also had a prior recent 
ED trip with similar symptoms and was discharged home on 
prednisone 60mg, benadryl, and zantac. She reports taking all of 
these medications and brought in the empty medication bottles. 
Her symptoms initially went away, but she awoke this morning 
with worsening facial swelling (R>L), extremity edema, and 
diffuse extremely pruritic rash. She denies fevers, chills, URI 
symptoms, CP, SOB, or wheezing. She denies new medications, new 
foods, or identifiable precipitants. She does not use soaps or 
lotion, only hot water and vaseline. She has used Tide detergent 
for years. She denies history of allergies, asthma, rashes, or 
nasal polyps. Her last tattoo was shortly after her first 
allergic episode.  
.  
In the ED, initial vs were: 99.1 89 130/71 16 100%. Patient was 
given HydrOXYzine 25mg x2, DiphenhydrAMINE 50mg, 
MethylPREDNISolone 40mg x2, Ranitidine 150mg, and OxycoDONE 5mg. 
Vitals at transfer were: afeb 72, 100/51, 16, 100% RA.  
.  
On the floor, she notes pruritis but denies any pain.  
 
Past Medical History:
1. Major depression disorder with multiple hospitalizations 
along with a history of self-mutilation with cutting.  
2. Bipolar.  
3. Possible schizophrenia although the patient currently denies. 
 
4. G7P7  
5. History of trichomonas. No history of gonorrhea, chlamydia or 
herpes.  
6. Substance abuse  
7. Multiple prior suicide attempts 
 
PAST SURGICAL HISTORY:  
1. Umbilical hernia repair.  
2. Open cholecystectomy for gallstones.  
 
Social History:
___
Family History:
Son ___ has chronic asthma, son ___ has seafood 
allergies.
 
Physical Exam:
Upon admission:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, right periorbital edema, MMM, perioral 
edema, oropharynx clear without lesions  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
Skin: diffuse erythematous wheels on chest, back, abd, and 
extremities, worse with itchy, no burrows noted on hands  
.
At discharge:
General: Alert, oriented, uncomfortable
HEENT: Sclera anicteric, right periorbital edema with eye shut, 
MMM, perioral edema, oropharynx clear without lesions
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
Abdomen: obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNs2-12 intact, motor function grossly normal
Skin: diffuse erythematous wheels on chest, back, abd, and 
extremities
 
Pertinent Results:
Labs:
___ 06:50AM BLOOD WBC-10.6 RBC-4.24 Hgb-12.7 Hct-37.6 
MCV-89 MCH-29.9 MCHC-33.7 RDW-13.1 Plt ___
___ 06:50AM BLOOD Neuts-55.2 ___ Monos-1.9* Eos-0.6 
Baso-1.0
___ 06:50AM BLOOD Glucose-88 UreaN-10 Creat-0.9 Na-140 
K-3.3 Cl-104 HCO3-24 AnGap-15
___ 06:50AM BLOOD ALT-22 AST-28 AlkPhos-49 TotBili-0.2
___ 06:50AM BLOOD TSH-0.64
___ 06:50AM BLOOD TSH-0.64
___ 06:50AM BLOOD Free T4-1.4
___ 06:50AM BLOOD HBsAg-PND
___ 12:18PM BLOOD ___
___ 06:50AM BLOOD antiTPO-PND
___ 06:50AM BLOOD C3-PND C4-PND
___ 06:50AM BLOOD HCV Ab-PND
___ 12:18PM BLOOD CU INDEX (ANTI-FCER1 ANTIBODY)-PND
 
Brief Hospital Course:
___ yo female with extensive obstetrical and psychological 
history presents with allergic symptoms to unknown allergen.  

#allergic symptoms: Pt is presenting with third episode of 
perioral and periorbital edema with diffuse wheels to unknown 
antigen. She denies any new exposures or identifiable triggers. 
Rash is pruritic and appears allergic with family history of 
allergies. Differential includes scabies but no burrows and 
family members are asymptomatic. Pt was kept in house due to 
persistent symptoms of unilateral right sided angioedema and 
pruritic hives, without airway compromise.  Pt was started on a 
Medrol taper and antihistamine blockade with zyrtec and allegra. 
 Hydroxyzine was given as needed for itch.  Allergy was 
consulted and recommended a workup that was started and was 
pending at the time of discharge.  Over the following 24hrs on 
IV steroids, she had significant improvement in facial swelling. 
She was discharged in stable condition with plan for follow up 
with allergy clinic for skin and patch testing this following 
week.   Serology work up recommended by allergy will be followed 
up at this time. 

#Headache: Likely secondary to periorbital swelling or tension.  
Continued therapy for allergy with symptomatic treatment.  She 
was treated with IVF, IV caffeine, tylenol, and low dose of 
oxycodone given that NSAIDs were contraindicated.

#Psych disorder: Question of MDD, bipolar disorder, and 
schizophrenia, as an outpatient. Currently appears stable with 
appropriate mood.  Continued sertraline.

#Normocytic anemia: Currently menstruating.  Will need 
outpatient follow up.

#GERD: Continued on ranitidine.
 
Medications on Admission:
ranitidine 150 mg by mouth twice daily prn heartburn  
sertraline 150 mg Tablet  
 
Discharge Medications:
1. sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. cetirizine 10 mg Tablet Sig: One (1) Tablet PO bid ().
Disp:*60 Tablet(s)* Refills:*0*
3. fexofenadine 60 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).
Disp:*90 Tablet(s)* Refills:*0*
4. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
5. hydroxyzine HCl 25 mg Tablet Sig: ___ Tablets PO every six 
(6) hours as needed for hives, itching.
Disp:*60 Tablet(s)* Refills:*2*
6. Medrol 4 mg Tablet Sig: as directed Tablet PO three times a 
day for 15 days: ___: each day take 4 tabs in the am, 2 
tabs midday, and 2 tabs at night. ___: each day take 3 tabs 
in the am, 1 tab midday, and 1 tab at night. ___: each day 
take 2 tabs in the am, 1 tab midday, and 1 tab at night. 
___: each day take 1 tab in the am and 1 tab midday. 
___: each day take 1 tab in the morning. .
Disp:*59 Tablet(s)* Refills:*0*
7. EpiPen 0.3 mg/0.3 mL Pen Injector Sig: One (1) pen 
Intramuscular once: PRN as needed for anaphylaxis: Epipen should 
be used for development of allergic symptoms with shortness of 
breath, wheezing, tongue swelling. .
Disp:*1 pen* Refills:*2*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Angioedema, allergic reaction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of ___ during your stay here at 
___.

___ were admitted for facial swelling and hives.  This was 
treated with medications called antihistamines and steroids.  
The allergy team was consulted and ___ will follow up with them 
as an outpatient to determine the cause of your allergic 
reaction.

The following changes were made to your medication regimen:
START Solumedrol steroid taper
START Zyrtec
START Allegra
START hydroxyzine as needed

___ are also being prescribed an epipen. ___ should keep this 
with ___ at all times, and use it in cases of developing 
allergic symptoms with shortness of breath, swelling of your 
tongue, increased difficulty breathing. 
 
Followup Instructions:
___